US04287195
A mixture of 10.2 parts of 4-(1-piperazinyl)phenol dihydrobromide, 5.7 parts of 2-chloroquinoline, 6.3 parts of potassium carbonate and 80 parts of 1-butanol is stirred and refluxed overnight. The reaction mixture is diluted with water and 2,2'-oxybispropane is added: the product is crystallized. It is filtered off and recrystallized from 4-methyl-2-pentanone, yielding 6.4 parts (70%) of 4-[4-(2-quinolinyl)-1-piperazinyl]phenol; mp. 198.1° C.

reactant | 4-(1-piperazinyl)phenol dihydrobromide | Br.Br.N1(CCNCC1)C1=CC=C(C=C1)O
reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
product | 4-[4-(2-quinolinyl)-1-piperazinyl]phenol | 70% | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=C1)O | C19H19N3O
